US04780538
A solution of 4.1 grams (20 millimoles) of methyl 3-(2-methylphenyl)aminocrotonate in 5 milliliters of dry benzene is added to the titanamine complex followed by 1.1 grams (10 millimoles) of benzaldehyde and the mixture stirred at ambient temperature for several hours to obtain the desired dimethyl 2,6-dimethyl-4-phenyl-1-(2-methylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate which may be recovered in a manner similar to that previously described.

reactant | methyl 3-(2-methylphenyl)aminocrotonate | 20 millimoles, 4.1 grams | CC1=C(C=CC=C1)N\C(=C/C(=O)OC)\C | C12H15NO2
reactant | benzaldehyde | 10 millimoles, 1.1 grams | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | 5 milliliters | C1=CC=CC=C1 | C6H6
product | dimethyl 2,6-dimethyl-4-phenyl-1-(2-methylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate | CC=1N(C(=C(C(C1C(=O)OC)C1=CC=CC=C1)C(=O)OC)C)C1=C(C=CC=C1)C | C24H25NO4
